US06140349
Step G: N-Methyl-N-(2,5-dimethyl-2-phenylhex-4-en-1-yl)benzenesulfonamide
Benzenesulfonyl chloride (0.280 mL, 388 mg, 2.19 mmol) was added dropwise over 5 min to a solution of N-methyl-(2,5-dimethyl-2-phenylhex-4-en-1-yl)amine (415 mg, 1.91 mmol) and N,N-diisopropylethylamine (0.520 mL, 386 mg, 2.99 mmol) in THF (5.0 mL) at RT. After 16 h, the reaction mixture was diluted with 30 mL of ethyl acetate and washed with 15 mL each of 2 N aqueous HCl, saturated aqueous sodium bicarbonate, and saturated aqueous sodium chloride. The organic layer was dried over sodium sulfate and evaporated. The crude product was purified by flash column chromatography on silica gel, eluting with 4% ethyl acetate in hexane, to give 0.59 g of the title compound as a colorless oil. 1H NMR (400 MHz, CDCl3): δ 7.72 (d, 2H, J=7.5 Hz), 7.55 (t, 1H, J=7.5 Hz), 7.48 (t, 2H, J=7.5 Hz), 7.33-7.23 (m, 4H), 7.17 (t, 1H, J=7 Hz), 4.83 (bt, 1H, J=7 Hz), 3.40 (d, 1H, J=13 Hz), 2.94 (d, 1H, J=13 Hz), 2.50 (dd, 1H, J=15, 6 Hz), 2.33 (dd, 1H, J=15, 8 Hz), 2.09 (s, 3H), 1.59 (s, 6H), 1.42 (s, 3H). Mass spectrum (NH3 /CI): m/z=358 (M+1).

reactant | Benzenesulfonyl chloride | 2.19 mmol, 0.280 mL, 388 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | N-methyl-(2,5-dimethyl-2-phenylhex-4-en-1-yl)amine | 1.91 mmol, 415 mg | CNCC(CC=C(C)C)(C1=CC=CC=C1)C | C15H23N
reactant | N,N-diisopropylethylamine | 2.99 mmol, 0.520 mL, 386 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | N-Methyl-N-(2,5-dimethyl-2-phenylhex-4-en-1-yl)benzenesulfonamide | 0.59 g | CN(S(=O)(=O)C1=CC=CC=C1)CC(CC=C(C)C)(C1=CC=CC=C1)C | C21H27NO2S
